US07084250B2
(S)-2-[2-Acetylamino-3-(4-cyanophenyl)acryloylamino]-2-cyclohexylacetic acid
(S)-Cyclohexylglycine (3.14 kg, 20 mol) in acetone (70 l) was heated with stirring at 35° C. With stirring, 1 N aqueous sodium hydroxide solution (20 l) was then added over a period of 10 min. The mixture was heated to 40° C., and at an internal temperature of 40° C., solid 4-(2-methyl-5-oxooxazol-4-ylidenemethyl)benzonitrile (4.66 kg, 22 mol) was metered in in portions, with vigorous stirring, over 20 min. After the addition had been ended, the reaction mixture was stirred at an internal temperature of 40° C. for 1 h. The reaction solution was then filtered through a pressure nutsch covered with a Seitz filter K1000 and activated carbon (1 kg), and the filter residue was washed with 10 l of acetone. The filtrate was then cooled to 14° C. With stirring, 2N hydrochloric acid (about 10 l) was then added over a period of 10 min until a pH of 2.3 had been reached. Stirring was continued for 15 min, and the pH was readjusted using 2N HCl. Over a period of 20 min, the solution was then admixed with stirring with deionized water (160 l), whereupon the title compound precipitated. With stirring, the mixture was cooled to 0° C. and stirred at this temperature for 1 h. For isolation, the product was pumped onto a centrifuge, washed three times with water (10 l each), tumble-dried and dried at 40° C. under reduced pressure. Yield: 4.21 kg (11.4 mol, 57% of theory). M.p.: 196–198° C.; MS(ESI+): m/z=370.2 [M+H+]; 1H-NMR (200 MHz, DMSO-d6): δ=0.98–1.35 (m 1.48–1.90 (m, 6H), 1.99 (s, 3H), 4.20 (dd, 1H), 6.98 (s, 1H), 7.72 (d, 2H), 7.88 (d, 2H), 8.02 (d, 1H), 9.58 (s, 1H), 12.65 (br s, 1H).

reactant | (S)-Cyclohexylglycine | 20 mol, 3.14 kg | C1CCC(CC1)[C@@H](C(=O)O)N | C8H15NO2
reactant | sodium hydroxide | 1 N, 20 l | [OH-].[Na+]
reactant | 4-(2-methyl-5-oxooxazol-4-ylidenemethyl)benzonitrile | 22 mol, 4.66 kg | CC=1OC(C(N1)=CC1=CC=C(C#N)C=C1)=O | C12H8N2O2
solvent | acetone | 70 l | CC(=O)C | C3H6O
product | (S)-2-[2-Acetylamino-3-(4-cyanophenyl)acryloylamino]-2-cyclohexylacetic acid | C(C)(=O)NC(C(=O)N[C@H](C(=O)O)C1CCCCC1)=CC1=CC=C(C=C1)C#N | C20H23N3O4
